US07960394B2
3-Allyl-2-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]pyrido[2,3-d]pyrimidin-4(3H)-one
The entitled compound was obtained according to the method of Example 77 but using 2-aminonicotinic acid, allylamine, 4-hydroxybenzaldehyde and 1-(3-bromopropyl)pyrrolidinium bromide.

reactant | 2-aminonicotinic acid | NC1=C(C(=O)O)C=CC=N1 | C6H6N2O2
reactant | allylamine | C(C=C)N | C3H7N
reactant | 4-hydroxybenzaldehyde | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | 1-(3-bromopropyl)pyrrolidinium bromide | [Br-].BrCCC[NH+]1CCCC1
product | 3-Allyl-2-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]pyrido[2,3-d]pyrimidin-4(3H)-one | C(C=C)N1C(=NC2=C(C1=O)C=CC=N2)C2=CC=C(C=C2)OCCCN2CCCC2 | C23H26N4O2
